US07566699B2
2′-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-hydroxyacetophenone
To a mixture of 2′,6′-dihydroxyacetophenone (1 g), potassium carbonate (4.54 g) and benzyltri(n-butyl)ammonium chloride (0.41 g) in chloroform (13 mL) were added water (0.5 mL) and acetobromo-α-D-glucose (2.7 g), and the mixture was stirred at room temperature for 24 hours. The reaction mixture was poured into water, and the mixture was acidified by addition of 2 mol/L hydrochloric acid. The resulting mixture was extracted with ethyl acetate, and the extract was washed with water and brine. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was treated with methanol, and the precipitated crystals were collected by filtration and dried under reduced pressure to give the title compound (1.38 g).

reactant | 2′,6′-dihydroxyacetophenone | 1 g | OC1=C(C(=CC=C1)O)C(C)=O | C8H8O3
reactant | potassium carbonate | 4.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetobromo-α-D-glucose | 2.7 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
catalyst | benzyltri(n-butyl)ammonium chloride | 0.41 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | water | 0.5 mL | O | H2O
product | 2′-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-hydroxyacetophenone | 1.38 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(C(=CC=C1)O)C(C)=O | C22H26O12
